US06875884B1
To a mixture of N-[3-(1,2,3,4-tetrahydro-1-naphthylamino)propyl]phthalimide (569 mg, 1.7 mmol), potassium carbonate (709 mg, 5.1 mmol) and potassium iodide (280 mg, 1.7 mmol) in CH3CN (20 ml) was added 4-bromobutyronitrile (754 mg, 5.1 mmol). The mixture was refluxed under stirring for 18 h, and then filtered. The filtrate was concentrated under vacuum to dryness, and the residue was chromatographed on silica gel (eluting with 20% ethyl acetate/chloroform) to afford 4-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butyronitrile (336 mg, 50%): MS(ES+) m/e 402 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 7.82 (dd, J=5.4, 2.9 Hz, 2H), 7.70 (m, 2H), 7.60 (d, J=7.6 Hz, 1H), 7.11 (m, 1H), 7.02 (m, 2H), 3.95 (m, 1H), 3.78 (m, 1H), 3.59 (m, 1H), 2.73 (m, 2H), 2.64 (m, 1H), 2.51 (m, 4H), 2.35 (m, 1H), 1.98 (m, 2H), 1.83 (m, 4H), 1.63 (m, 2H).

reactant | N-[3-(1,2,3,4-tetrahydro-1-naphthylamino)propyl]phthalimide | 1.7 mmol, 569 mg | C1(CCCC2=CC=CC=C12)NCCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H22N2O2
reactant | potassium carbonate | 5.1 mmol, 709 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.7 mmol, 280 mg | [I-].[K+]
reactant | 4-bromobutyronitrile | 5.1 mmol, 754 mg | BrCCCC#N | C4H6BrN
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 4-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butyronitrile | 336 mg, 50% | C1(C=2C(C(N1CCCN(CCCC#N)C1CCCC3=CC=CC=C13)=O)=CC=CC2)=O | C25H27N3O2
